US07238701B2
Step 1. Preparation of Example 63: ethyl 1,4-dioxaspiro[4,5]dec-8-ylideneacetate
To a solution of THF (18 mL) under argon was added 0.38 g (47.8 mmol, 5 equiv) of LiH, followed by slow addition of 8.78 g (47.8 mmol, 5 equiv) of triethyl phosphonoacetate. The solution was stirred at rt for 1 h and 1.49 g (9.6 mmol, 1 equiv) of 1,4-cyclohexanedione mono-ethylene ketal was added and the solution was heated at 65° C. for 16 h. Upon cooling the solution was treated with MeOH (10 mL) and water (5 mL) and concentrated in vacuo. The resulting yellow oil was purified by silica gel chromatography eluting with 4:1 Hex/EtOAc to yield 1.89 g (93%) of a clear oil. 1H-NMR (CDCl3-d) δ 5.67 (s, 1H), 4.16 (t, 2H), 3.99 (m, 4H), 3.02 (m, 2H), 2.39 (m, 2H), 1.78 (m, 4H), 1.29 (t, 3H); LCMS RT=2.56 min; [M+H]+=226.9.

reactant | THF | 18 mL | C1CCOC1 | C4H8O
reactant | LiH | 47.8 mmol, 0.38 g, 5 equiv | [H-].[Li+]
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 9.6 mmol, 1.49 g, 1 equiv | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | MeOH | 10 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | ethyl 1,4-dioxaspiro[4,5]dec-8-ylideneacetate | 1.89 g, 93% | O1CCOC12CCC(CC2)=CC(=O)OCC | C12H18O4
